US08865736B2
3-Amino-4-chloro-benzoic acid methyl ester
To a solution of 4-Chloro-3-nitro-benzoic acid methyl ester (5.0 g, 23.19 mmol) in 100 ml of ethanol was added SnCl2.2H2O (26.0 g, 115.96 mmol) and the reaction mixture was heated at 80° C. for 2 h. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure. Water (100 mL) was added, basified the reaction mixture with NaOH solution and extracted with hot EtOAc (3×250 mL). The combined organics was dried over Na2SO4, filtered and concentrated to give the desired product (3.0 g, 69%).

reactant | 4-Chloro-3-nitro-benzoic acid methyl ester | 23.19 mmol, 5.0 g | COC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C8H6ClNO4
reactant | SnCl2.2H2O | 115.96 mmol, 26.0 g | O.O.Cl[Sn]Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino-4-chloro-benzoic acid methyl ester | 3.0 g, 69% | COC(C1=CC(=C(C=C1)Cl)N)=O | C8H8ClNO2
